US04489003
5 g (14.5 mmol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 70 mg of powdered potassium cyanide and 20 ml of benzyl alcohol are stirred at 110° for 1 hour, evaporated to dryness and the residue is taken up in chloroform. The solution is washed with water, dried over magnesium sulphate and evaporated. By recrystallization from ethanol and ether there is obtained benzyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 141°-142°.

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 14.5 mmol, 5 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | potassium cyanide | 70 mg | [C-]#N.[K+]
solvent | benzyl alcohol | 20 ml | C(C1=CC=CC=C1)O | C7H8O
product | benzyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC3=CC=CC=C3)CCC1)=O | C22H18ClN3O3
